US05219847
II-5-2: Synthesis of 4-n-undecylpyridine
A mixture of 8.50 g (34 mmol) of 4-n-undecanoylpyridine, 5.55 g (0.11 mol) of hydrazine.monohydrate, 4.41 g (74 mmol) of potassium hydroxide, and 30 ml of triethylene glycol was heated at 110° to 125° C. for one hour, and further, at 180° to 185° C. for 4 hours. After cooling, 50 ml of water was added, and the mixture was extracted with diethyl ether, washed with water and then dried over anhydrous potassium carbonate. After concentration under a reduced pressure, the residue was purified by distillation under a reduced pressure to give 6.40 g of the desired product (yield 79.8%).

reactant | 4-n-undecanoylpyridine | 34 mmol, 8.50 g | C(CCCCCCCCCC)(=O)C1=CC=NC=C1 | C16H25NO
reactant | hydrazine | 0.11 mol, 5.55 g | NN | H4N2
reactant | potassium hydroxide | 74 mmol, 4.41 g | [OH-].[K+]
reactant | triethylene glycol | 30 ml | C(COCCOCCO)O | C6H14O4
solvent | water | 50 ml | O | H2O
product | 4-n-undecylpyridine | 6.40 g, yield 79.8% | C(CCCCCCCCCC)C1=CC=NC=C1 | C16H27N
